Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])([C:4][C:11]([H:12])([H:13])[H:14])[H:10].[H:5][C:6]=[C:7]([H:8])[H:9],5.698678224430001
[C:14]([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-5.21088779
[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.23387873797
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])[H:13],4.64266373436
[C:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:8]([H:9])[H:10]>>[C:1][O:2][C:3]([O:4][C:5][H:6])=[C:8]([H:9])[H:10].[H:7],4.2692185870699975
[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[O:8]=[O:9]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9],-0.23964836398000006
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.21893906247
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4][H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.25289206987
[H:4].[O:1][C:2][C:3]>>[O:1][C:2]#[C:3][H:4],-4.46706706454
[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7][H:8],4.6329936219
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:13]([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],2.68031061106
[C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:1]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-6.14181124878
[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2]([C:3]#[C:4])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.792741363459999
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-1.7448925037099998
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[O:1]=[C:2]([O:3][C:4][H:5])[C:9]([H:10])([H:11])[H:12],7.89859362119
[C:4](=[C:5]([H:6])[H:7])=[C:8]([H:9])[H:10].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[H:7])=[C:8]([H:9])[H:10],0.922027139859
[C:1].[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.28414264654
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2](=[C:3]=[O:4])[C:12]([H:13])([H:14])[H:15],-0.110606019051
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7][H:8].[C:9]([H:10])[H:11],8.53969754681
[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-7.656879764389999
[C:1]#[C:2][C:3]([H:4])=[C:11]([H:12])[H:13].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:14]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-2.96714892156
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7][H:8].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9],-3.98469027502
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:4]([H:5])#[C:6].[H:1][C:2]=[C:3]([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],6.32926731854
[C:1]#[C:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8].[O:9][H:10],2.90998775573
[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],-2.54051744495
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10].[O:11][H:12],6.42425202504
[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7][H:8].[H:9],4.39884641399
[C:6]([H:7])([H:8])[H:9].[H:1][C:2]=[C:3]([O:4][O:5])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.88032715505
[C:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],3.2885184636400004
